Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I tried to kill myself with a sheet."
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Per note from Dr. ___ on ___, ___ is a ___ 
year
old male with reported psychiatric history of anxiety and one
prior suicide attempt by hanging last year, who presents to the
___ ED via ambulance after the mother of his children called
___ due to receiving a text message with a picture of the 
patient
with a sheet around his neck. Psychiatry
was consulted for diagnostic clarification and treatment
recommendation."

"Patient states that he had a fight earlier today with the 
mother
of his kids. States that she confronted him about the fact that
he will show up to see them without notice. This really bothered
him, and he started drinking. States that he drank about one 
pint
of vodka and then started to feel more depressed. States that he
then wrapped a sheet around his neck very tightly and started to
feel like he couldn't breathe. Stated that he took a picture to
send to the mother of his kids, and that he then took the sheet
off of his neck. EMS arrived following that, and per their 
report
they found his walking on the street. At that time he stated 
that
he put the noose on too tight so he stopped. Admitted to 
drinking
alcohol. Admitted to trying to hurt himself in the past. Was 
calm
and cooperative and was brought to the ___ ED."

"Patient states that prior to tonight, he has not felt 
depressed.
Denies any changes in sleep, appetite, energy, interest, or
pleasure. Denies any increased anxiety. Denies any auditory or
visual hallucinations or symptoms of mania. States that he does
not have weapons at home. States that he is not interested in 
any
sort of treatment, denies suicidal thought/intent/plan, and
states that after he sleeps he wants to go home."

Collateral from mother of patient's children, ___
(___) obtained by Dr. ___ on ___: 
"States that they have a ___ year old and a ___ year old together
(daughters). States that they were together on and off since 
they
were ___. He was incarcerated for a year during this time. He
ended up cheating on her with one of her relatives who
subsequently became pregnant. They broke up but still sort of
stayed together. Now he finally just now got his own place. Have
been working on keeping the peace. She has now dated someone for
a year, he is going crazy.  Yesterday saw some pictures on her
daugher's ipad that showed her with her boyfriend. He lost it,
became very angry and upset. He calmed down and then started
sending her pictures of the two of them together. Last night
started saying he was going to kill himself. 
Has a history of trauma, can't take the loss of losing her. He
seems depressed to her, she sees him at least every other day to
see his daughters. He is upset about his job, wants a better 
job.
He is in legal trouble currently from not having a license and
driving an ex-girlfriend's car. He hasn't been eating or
sleeping. ___ years ago she insulted him and then she found him
hanging from the curtain in the bathroom. A couple months ago
after an argument he said he would be better off if he killed
himself. He is "upset with God" because of what he went through
as a child. States that his daughters are better off without
him."
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Hospitalizations: no prior
Current treaters and treatment: no current treaters, had a
psychiatrist when he was a child who he states prescribed him
clonidine
Medication and ECT trials: clonidine
Self-injury: denies
SA: one prior to today, by hanging one year ago; stopped when 
the
noose became too tight
Harm to others: denies
Access to weapons: denies

PAST MEDICAL HISTORY:
Asthma

 
Social History:
SUBSTANCE ABUSE HISTORY:
Patient states that he always "drinks to get drunk" on the
weekends, being ___, and ___. States that he 
does
not drink during the week. States that he sometimes uses 
Percocet
5mg from off the street, about once per weekend. States that he
smokes one pack of cigarettes per week for the past ___ years.

FORENSIC HISTORY: ___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Patient is adopted, does not know
biological family

 
Physical Exam:
Physical Examination:
VS: T 98.2, HR 83, BP 136/71, SP02 99%
General- NAD
Skin- no rashes or bruises
HEENT- PERRLA, MMM, normal oropharynx
Lungs- CTA bilaterally, no wheezes, rales, rhonchi
CV- RRR, N S1 and S2, no m/r/g
Abdomen- Soft, NT, ND, +BS, no guarding or rebounding
Extremities- No edema, normal tone
Neuro- CN II-XII grossly intact, normal gait, ___ strength UE &
___ bilaterally, normal sensation throughout
Neuropsychiatric Examination:
  *Appearance: Well-groomed male appearing stated age, dressed 
in
hospital gown
  Behavior: Cooperative, pleasant, sometimes starts to become
tearful during interview but covers his eyes
  *Mood and Affect: "okay", affect congruent with stated mood
  *Thought process: Linear, goal-directed
  *Thought Content: denies SI/HI, denies AH/VH, no evidence of
delusions
  *Judgment and Insight: fair/good
  Cognition:
    *Attention: Appropriately attentive to questioning/interview
    *Orientation: Oriented x 3
    *Memory: Intact to recent and remote events
    *Fund of knowledge: Appropriate for education level
    *Speech: Normal rate, tone and volume
    *Language: Fluent

 
Pertinent Results:
___
WBC 5.5
HGB 13.6
HCT 41.8
PLT 231

NA 145
K 3.9
CL 107
HC02 22
BUN 11
CREAT 1.0
GLUC 107

SERUM TOX: ETHANOL 58, otherwise NEGATIVE

URINE TOX: NEGATIVE
 
Brief Hospital Course:
#Safety: The pt was placed on 15 min checks on admission to the 
unit. There were no episodes of agitation, increased amount of 
concern, or need to increase the frequency of checks throughout 
admission.

#Legal: ___
#Psychiatric: Mr. ___ presented to the ED at ___ on 
___ after a suicide attempt by hanging. He reported that he 
had a fight with the mother of his children (his ex-girlfriend), 
and had been drinking alcohol heavily, which worsened his 
depressed mood. Although he was unable to fully elaborate on his 
suicidal ideation, he reports that he tied a sheet around his 
neck and attempted to hang himself from the shower. He took a 
picture of himself and sent it to his ex-girlfriend. He reports 
that the sheet became too painful and he removed it. Upon 
further discussion with Mr. ___, he reports that he has 
been feeling depressed for more time than he originally reported 
(he originally reported feeling depressed for only one day's 
time). He reported excessive stress at work, with other 
co-workers talking to him constantly about their personal 
problems. He also reported working ___ hour shifts which at 
some points was grueling. He reports financial difficulties, as 
well as struggling internally with the fact that his 
ex-girlfriend is happy in a new relationship. He also struggles 
with hanging out with friends who he knows "do not do the right 
things." He reports using alcohol as a way to cope with his 
stress and depression, although he admits it usually worsens his 
mood further. Upon admission, it was unclear whether Mr. 
___ symptoms constituted a primary mood disorder or a 
substance-induced mood disorder. After speaking with Mr. 
___ further, it was clear that his depressive symptoms 
occurred outside the setting of alcohol use, thus constituting a 
primary mood disorder. While on the inpatient unit, Mr. ___ 
was started on Citalopram 10 mg daily to help with his 
depressive symptoms. The dose was increased to Citalopram 20 mg 
daily on ___, and Mr. ___ has denied any side-effects 
from the medication. During his time spent on the unit, Mr. 
___ was able to open up about his experiences with 
depression and suicidality. He attended numerous groups each day 
to learn coping mechanisms including meditation and relaxation. 
He has become more future oriented, including thinking about his 
own future as well as the future of his children. He has begun 
to describe himself in a positive light and is looking forward 
to attending outpatient therapy. He also reports that he plans 
to stop drinking alcohol upon discharge, at least for the time 
being. He is aware of resources that he can use if he wants help 
cutting back on his alcohol consumption, including getting an AA 
sponser. He will be discharged on Citalopram 20 mg daily which 
he should continue to take for at least a period of ___ year. 

#Medical: None

#Psychosocial:
-Groups/Milieu: Mr. ___ was very interactive and very 
involved in groups throughout his stay. Pt was visible on the 
unit and had appropriate interactions with both peers and staff. 
He began to develop relationships with a few of his peers.

-Collateral: Collateral was received from patient's 
ex-girlfriend (mother of his two oldest daughters), which 
revealed that patient may have been experiencing symptoms of 
depression for longer than he had originally explained. She 
expressed concern that he does not express his emotions, and 
build-up leads to suicidal ideation and attempts. No other 
collateral was obtained during hospitalization.

INFORMED CONSENT:
We discussed the indications for, intended benefits of, and 
possible side effects and risks of medications above, and risks 
and benefits of possible alternatives. We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and we answered the patient's 
questions. The patient appeared able to understand and consented 
to begin and continue with the medications.

#Risk Assessment:
-Chronic/Static: Gender, single status, legal history, history 
of past suicide attempt

-Modifiable Risk Factors: Depression: interventions include new 
pharmacological therapy and outpatient therapy. Alcohol abuse 
was modified by psychoeducation and recommendations for AA 
meetings.  Chronic stress associated with work environment was 
modified by talk therapy and exploring his options for work upon 
d/c. 

-Protective Risk Factors: Help-seeking behavior, social 
supports, children 

#Prognosis: Favorable - Mr. ___ does have a history of one 
prior suicide attempt, but he does seem very invested in his 
treatment and is looking forward to starting outpatient therapy. 
Reports he has learned to open up more about his emotions 
(especially when he is feeling depressed), has learned 
meditation, etc, and is looking forward to applying these skills 
to his life. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Citalopram 20 mg PO DAILY 
RX *citalopram [Celexa] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder, alcohol use disorder
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___